US07915270B2
1-(5-(3-Nitrophenyl)oxazol-2-yl)-7-phenylheptan-1-one
2-(1-(tert-Butyldimethylsilyloxy)-7-phenylheptyl)-5-(3-nitrophenyl)oxazole. The title compound was prepared from 2-(1-(tert-butyldimethylsilyloxy)-7-phenylheptyl)-5-(tributylstannyl)oxazole (191 mg, 0.288 mmol) and 1-iodo-3-nitrobenzene following General Procedure A. Flash chromatography (5-10% EtOAc/hexanes) yielded the title compound as a yellow oil (128 mg, 90%): 1H NMR (CDCl3, 500 MHz) δ 8.57-8.56 (m, 1H), 8.26-8.24 (m, 1H), 8.03-8.02 (m, 1H), 7.69 (t, 1H, J=16 Hz), 7.51 (s, 1H), 7.36-7.33 (m, 2H), 7.26-7.23 (m, 3H), 4.94 (t, 1H, J=6.0 Hz), 2.67 (t, 2H, J=7.5 Hz), 2.05-1.96 (m, 2H), 1.72-1.66 (m, 2H), 1.57-1.44 (m, 6H), 0.99 (s, 9H), 0.19 (s, 3H), 0.09 (s, 3H); 13C NMR (CDCl3, 125 MHz) δ 166.4, 149.3, 149.2, 143.2, 130.5, 130.1, 130.0, 128.8, 128.6, 126.0, 124.2, 123.2, 119.4, 69.1, 36.8, 36.3, 31.8, 29.6, 26.1, 26.1, 25.5, 18.6, −4.5, −4.6.

reactant | 2-(1-(tert-Butyldimethylsilyloxy)-7-phenylheptyl)-5-(3-nitrophenyl)oxazole | [Si](C)(C)(C(C)(C)C)OC(CCCCCCC1=CC=CC=C1)C=1OC(=CN1)C1=CC(=CC=C1)[N+](=O)[O-] | C28H38N2O4Si
reactant | 2-(1-(tert-butyldimethylsilyloxy)-7-phenylheptyl)-5-(tributylstannyl)oxazole | 0.288 mmol, 191 mg | [Si](C)(C)(C(C)(C)C)OC(CCCCCCC1=CC=CC=C1)C=1OC(=CN1)[Sn](CCCC)(CCCC)CCCC
reactant | 1-iodo-3-nitrobenzene | IC1=CC(=CC=C1)[N+](=O)[O-] | C6H4INO2
product | 1-(5-(3-Nitrophenyl)oxazol-2-yl)-7-phenylheptan-1-one | 128 mg, 90% | [N+](=O)([O-])C=1C=C(C=CC1)C1=CN=C(O1)C(CCCCCCC1=CC=CC=C1)=O | C22H22N2O4
